US05688803
10 g (48.3 mmol) of 7-nitro-1,2,3,4-tetrahydro-quinazoline-2,4-dione were added portionwise at 0° C. to 32 ml of fuming nitric acid. Thereafter, the mixture was stirred at room temperature for a further 5 hrs. The reaction mixture was poured on to ice, the precipitate was filtered off under suction and washed with 65% nitric acid, dilute nitric acid and finally with water. 7.15 g (59%) of 6,7-dinitro-1,2,3,4-tetrahydroquinazoline-2,4-dione were obtained as a yellow powder;

reactant | 7-nitro-1,2,3,4-tetrahydro-quinazoline-2,4-dione | 48.3 mmol, 10 g | [N+](=O)([O-])C1=CC=C2C(NC(NC2=C1)=O)=O | C8H5N3O4
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 6,7-dinitro-1,2,3,4-tetrahydroquinazoline-2,4-dione | 7.15 g, 59% | [N+](=O)([O-])C=1C=C2C(NC(NC2=CC1[N+](=O)[O-])=O)=O | C8H4N4O6
